US08207164B2
b) 5-tert-Butoxycarbonylamino-2-methyl-oxazole-4-carboxylic acid
To a solution of 314 mg (1.163 mmol) 5-tert-butoxycarbonylamino-2-methyl-oxazole-4-carboxylic acid ethyl ester in 1.16 ml THF was added at 0° C. 5.82 ml (5.82 mmol) 1N sodium hydroxide, the mixture was allowed to warm to room temperature and stirring was continued for 6 days. At 0° C. 5.82 ml (5.82 mmol) 1N HCl was added and the solvents were evaporated. The residue was suspended in DCM and filtered, the solvent was evaporated to provide the title compound as colorless solid.

reactant | 5-tert-butoxycarbonylamino-2-methyl-oxazole-4-carboxylic acid ethyl ester | 1.163 mmol, 314 mg | C(C)OC(=O)C=1N=C(OC1NC(=O)OC(C)(C)C)C | C12H18N2O5
reactant | sodium hydroxide | 5.82 mmol, 1N, 5.82 ml | [OH-].[Na+]
reactant | HCl | 5.82 mmol, 1N, 5.82 ml | Cl | ClH
solvent | THF | 1.16 ml | C1CCOC1 | C4H8O
product | 5-tert-Butoxycarbonylamino-2-methyl-oxazole-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1=C(N=C(O1)C)C(=O)O | C10H14N2O5
